US08791132B2
A suspension of 2-(10-methyl-2,3,5,6-tetrahydro-1H-indolizino[7,8-b]indol-7(11cH)-yl)-1-(1-trityl-1H-imidazol-2-yl)ethanol (0.4 g, 0.69 mmol) in MeOH (10 mL), 1N HCl (1 mL) was added and the reaction mixture was stirred at RT for 2 h. The reaction mixture concentrated under vacuum to obtain the crude product that was basified with satd. sodium bicarbonate solution and extracted with EtOAc (50 mL). The organic layer was dried over anhydrous sodium sulfate, and concentrated under vacuum to obtain the crude product, which was purified by reverse HPLC to obtain 11.30 mg 1-(1H-imidazol-2-yl)-2-(10-methyl-2,3,5,6-tetrahydro-1H-indolizino[7,8-b]indol-7(11cH)-yl)ethanol. 1H NMR (CD3OD, TFA salt) δ (ppm): 7.44 (s, 2H), 7.27 (s, 1H), 7.13 (d, 1H), 6.99 (d, 1H), 5.37 (t, 1H), 5.1 (m, 1H),4.56 (dd, 1H), 4.46 (dd, 1H), 3.67 (m, 3H), 3.42 (m, 1H), 3.24 (m, 2H), 2.7 (m, 1H), 2.4 (s, 3H), 2.2 (m, 3H).

reactant | 2-(10-methyl-2,3,5,6-tetrahydro-1H-indolizino[7,8-b]indol-7(11cH)-yl)-1-(1-trityl-1H-imidazol-2-yl)ethanol | 0.69 mmol, 0.4 g | CC1=CC=2C3=C(N(C2C=C1)CC(O)C=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCN1CCCC13 | C39H38N4O
solvent | MeOH | 10 mL | CO | CH4O
solvent | HCl | 1N, 1 mL | Cl | ClH
product | 1-(1H-imidazol-2-yl)-2-(10-methyl-2,3,5,6-tetrahydro-1H-indolizino[7,8-b]indol-7(11cH)-yl)ethanol | 11.30 mg | N1C(=NC=C1)C(CN1C2=C(C=3C=C(C=CC13)C)C1CCCN1CC2)O | C20H24N4O
